US06417358B1
A mixture of 51.5 g (0.25 mol) of 2,4-di-tert-butylphenol, 26.5 g (0.25 mol) of benzaldehyde and 42.3 g (0.375 mol) of a 40% aqueous solution of dimethylamine is heated in a closed vessel at 140° C. for 10 hours, the internal pressure rising to 5 bar. After cooling to room temperature, the reaction mixture solidifies. Crystallisation of the residue from isopropanol yields 65.2 g (77%) of 2,4-di-tert-butyl-6-(dimethylamino-phenyl-methyl)-phenol, m.p. 120-123° C. (compound (202), Table 2). Molecular weight C23H33NO (339.52). Analysis, calculated: C 81.37; H 9.80; N 4.13%. Analysis, found: C 81.25; H 9.86; N 4.00%. 1HNMR (300 MHz, CDCl3, ppm): 1.19 (s, 9H); 1.44 (s, 9H); 2.26 (s, 6H); 4.34 (s, 1H); 6.75 (d, 1H); 7.29 (m, 6H); 12.43 (s, 1H).

reactant | 2,4-di-tert-butylphenol | 0.25 mol, 51.5 g | C(C)(C)(C)C1=C(C=CC(=C1)C(C)(C)C)O | C14H22O
reactant | benzaldehyde | 0.25 mol, 26.5 g | C(C1=CC=CC=C1)=O | C7H6O
reactant | dimethylamine | CNC | C2H7N
product | 2,4-di-tert-butyl-6-(dimethylamino-phenyl-methyl)-phenol | 65.2 g, 77% | C(C)(C)(C)C1=C(C(=CC(=C1)C(C)(C)C)C(C1=CC=CC=C1)N(C)C)O | C23H33NO
